US04559361
In 30 ml of methanol was dissolved 1 g of trans-6-amino-2-benzyloxy-5-hydroxy-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride, followed by addition of 5 g of benzylacetone. Then, under ice-cooling, 1 g of sodium cyanoborohydride was added and the mixture was allowed to stand at room temperature overnight. The reaction mixture was diluted with 300 ml of water and extracted 3 times with 30 ml of CHCl3. The CHCl3 layers were combined, washed with water, dried and concentrated under reduced pressure. The residue was dissolved in 50 ml of ethyl ether, followed by addition of 5 ml of 20% ethanolic hydrochloric acid, whereby 0.84 g of trans-2-benzyloxy-5-hydroxy-6-(1-methyl-3-phenylpropylamino)-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride was obtained as colorless crystals, m.p. 215°-218° C.

reactant | trans-6-amino-2-benzyloxy-5-hydroxy-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride | 1 g | Cl.N[C@H]1[C@@H](C=2C=CC(=C(C2CC1)C(=O)N)OCC1=CC=CC=C1)O
reactant | benzylacetone | 5 g | C(C1=CC=CC=C1)CC(C)=O | C10H12O
reactant | sodium cyanoborohydride | 1 g | C(#N)[BH3-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | trans-2-benzyloxy-5-hydroxy-6-(1-methyl-3-phenylpropylamino)-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride | 0.84 g | Cl.C(C1=CC=CC=C1)OC1=C(C=2CC[C@H]([C@@H](C2C=C1)O)NC(CCC1=CC=CC=C1)C)C(=O)N | InChI=1S/C28H32N2O3.ClH/c1-19(12-13-20-8-4-2-5-9-20)30-24-16-14-22-23(27(24)31)15-17-25(26(22)28(29)32)33-18-21-10-6-3-7-11-21;/h2-11,15,17,19,24,27,30-31H,12-14,16,18H2,1H3,(H2,29,32);1H/t19?,24-,27-;/m1./s1
